US07501411B2
Step 2: 4-Bromo-2-fluoro-6-(nitromethyl)benzoic acid methyl ester
Nitromethane (10 mL, 169 mmol, 8 equiv.) is added cautiously to a suspension of sodium hydride (4.05 g, 169 mmol, 8 equiv.) and MgSO4 (40 g) in DMSO (100 mL) at rt and the resulting slurry is stirred for 0.25 h. To the resulting yellow slurry is added 4-bromo-2,6-difluorobenzoic acid methyl ester (5.3 g, 21 mmol) and the mixture is stirred at rt for 3 days at which point all the starting material has been consumed. Water (200 mL) and 6M HCl (50 mL) is added followed by DCM (200 mL). More water (500 mL) is added to yield a clear biphasic system. The aqueous layer is extracted with DCM (3×100 mL), the DCM layers are then combined, washed with saturated NaHCO3 and brine, and dried over MgSO4. Evaporation of the solvent affords an orange solid containing 64% of the desired material, used without further purification. LCMS; Rt=1.27 min (64%).

reactant | Nitromethane | 169 mmol, 10 mL, 8 equiv. | [N+](=O)([O-])C | CH3NO2
reactant | sodium hydride | 169 mmol, 4.05 g, 8 equiv. | [H-].[Na+]
reactant | MgSO4 | 40 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | 4-bromo-2,6-difluorobenzoic acid methyl ester | 21 mmol, 5.3 g | COC(C1=C(C=C(C=C1F)Br)F)=O | C8H5BrF2O2
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | 4-Bromo-2-fluoro-6-(nitromethyl)benzoic acid methyl ester | COC(C1=C(C=C(C=C1C[N+](=O)[O-])Br)F)=O | C9H7BrFNO4
